US07125896B2
a) 2-[(Aminocarbonyl)amino]-5-(4-formylphenyl)thiophene-3-carboxamide
2-[(Aminocarbonyl)amino]-5-bromo-3-thiophenecarboxamide (11.75 g) was stirred in 1,2-dimethoxyethane (500 ml) and saturated aqueous sodium bicarbonate solution (100 ml), and 4-formylphenyl boronic acid (10 g) was added. The flask was flushed with argon, and tetrakis-(triphenylphosphine)palladium(0) (5.1 g) was then added. The reaction was stirred at 90° C. for 2 h, then cooled and evaporated under reduced pressure. The residue was treated with dichloromethane (200 ml) and 2N sodium hydroxide solution (100 ml), and stirred for twenty minutes. The resulting solid was then isolated by filtration, and purified by trituration with ethanol (100 ml), giving the product as a pale green solid (5.75 g).

reactant | 2-[(Aminocarbonyl)amino]-5-bromo-3-thiophenecarboxamide | 11.75 g | NC(=O)NC=1SC(=CC1C(=O)N)Br | C6H6BrN3O2S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | 4-formylphenyl boronic acid | 10 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 2-[(Aminocarbonyl)amino]-5-(4-formylphenyl)thiophene-3-carboxamide | 5.75 g | NC(=O)NC=1SC(=CC1C(=O)N)C1=CC=C(C=C1)C=O | C13H11N3O3S
